US06414149B1
(R)-1-(4-Methanesulfonyloxy-pyrimidin-2-yl)-ethyl acetate
To an ice cold solution of (R)-2-(1-acetoxy-ethyl)-3H-pyrimidin-4-one (prepared according to the method of Preparation Thirteen, 2.58 g, 14.2 mmol) and triethylamine (1.43 g, 14.2 mmol) in dichloromethane (20 mL) was added methanesulfonyl chloride (1.63 g, 14.2 mmol) dropwise and stirred for 1 h. The mixture was washed successively with saturated aqueous sodium bicarbonate and water, dried over magnesium sulfate and filtered. The filtrate was evaporated to give the title compound as an oil, 3.15 g (85%). 1H NMR (CDCl3, 300 MHz) δ1.56 (d, 3H), 2.18 (s, 3H), 3.82 (s, 3H), 5.56 (q, 1H), 6.38 (d, 1H), 8.24 (d, 1H); MS (CI) 261 (MH+); [α]D +53.8 (c 1.1, MeOH).

reactant | (R)-2-(1-acetoxy-ethyl)-3H-pyrimidin-4-one | C(C)(=O)O[C@H](C)C1=NC=CC(N1)=O | C8H10N2O3
reactant | triethylamine | 14.2 mmol, 1.43 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14.2 mmol, 1.63 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-1-(4-Methanesulfonyloxy-pyrimidin-2-yl)-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)OS(=O)(=O)C | C9H12N2O5S
